US07371772B2
A suspension of methyl 8-bromo-1-isobutyl-9-methyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylate (900 mg) and 4-(2-butoxyethoxy)phenyl boric acid (759 mg) and potassium carbonate (883 mg) in toluene (20 ml), ethanol (2 ml) and water (2 ml) was stirred under argon atmosphere for 1 hour. Then, tetrakis(triphenylphosphine)palladium (142 mg) was added and the mixture was refluxed for 6 hours. After returning to room temperature, water was added and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried with magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=30:1→6:1) to give methyl 8-(4-(2-butoxyethoxy)phenyl)-1-isobutyl-9-methyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylate (790 mg) as a yellow oily material.

reactant | methyl 8-bromo-1-isobutyl-9-methyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylate | 900 mg | BrC=1C(=CC2=C(C=C(CCCN2CC(C)C)C(=O)OC)C1)C | C18H24BrNO2
reactant | 4-(2-butoxyethoxy)phenyl boric acid | 759 mg | C(CCC)OCCOC1=CC=C(C=C1)OB(O)O | C12H19BO5
reactant | potassium carbonate | 883 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 142 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 8-(4-(2-butoxyethoxy)phenyl)-1-isobutyl-9-methyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylate | 790 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C(=CC2=C(C=C(CCCN2CC(C)C)C(=O)OC)C1)C | C30H41NO4
